US05716971
A mixture of 2-(4,5-difluoro-2-methoxymethoxybenzoyl)-3-methoxymethoxy pyridine (7.18 g), potassium cyanide (4.47 g) and DMSO (100 ml) was stirred at 34°-40° C. overnight. To the reaction mixture were added ethyl acetate and water for extraction. The organic layer was washed with water and a saturated aqueous saline solution, successively, which was then dried (anhydrous magnesium sulfate), followed by distilling off the solvent under reduced. The residue was purified by means of a silica gel column chromatography (eluted with ethyl acetate/hexane) to give a mixture (7.05 g) of 2-(4-cyano-5-fluoro-2-methoxymethoxybenzoyl)-3-methoxymethoxypyridine and the starting compound (5:1). To this mixture (6.98 g) were added methanol (100 ml) and conc. hydrochloric acid (5 ml), which was stirred at 60° C. overnight. The reaction mixture was cooled by aeration, which was neutralized with a saturated aqueous solution of sodium hydrogencarbonate, followed by extraction with chloroform. The organic solvent was dried (anhydrous magnesium sulfate). The solvent was distilled under reduced pressure. The residue was washed with isopropylether to give 2-(4-cyano-5-fluoro-2-hydroxybenzoyl)-3-hydroxypyridine as crude crystals (4.59 g). This crude crystalline product was, without further purification subjected to reaction, in accordance with the method in Example 1, to lead to its oxime to give (Z)-2-(4-cyano-5-fluoro-2-hydroxybenzoyl)-3-hydroxyoyridine O-t-butyloxime (2.46 g) (Compound 176).

reactant | 2-(4,5-difluoro-2-methoxymethoxybenzoyl)-3-methoxymethoxy pyridine | 7.18 g | FC1=CC(=C(C(=O)C2=NC=CC=C2OCOC)C=C1F)OCOC | C16H15F2NO5
reactant | potassium cyanide | 4.47 g | [C-]#N.[K+]
reactant | DMSO | 100 ml | CS(=O)C | C2H6OS
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-(4-cyano-5-fluoro-2-methoxymethoxybenzoyl)-3-methoxymethoxypyridine | 7.05 g | C(#N)C1=CC(=C(C(=O)C2=NC=CC=C2OCOC)C=C1F)OCOC | C17H15FN2O5
